### PR TITLE
[Merged by Bors] - feat: BinomialRing instance for integers

### PR DESCRIPTION
**Pull request by ScottCarnahan**
We add a binomial ring instance for integers.  To prove the necessary identity for negative integers, we add a lemma comparing evaluations of ascending and descending Pochhammer polynomials.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Binomial.lean [hunk 1]
```diff
@@ -72,13 +72,31 @@ theorem factorial_nsmul_multichoose_eq_eval_ascPochhammer (r : R) (n : ℕ) :
...
     ascPochhammer_nat_eq_descFactorial]
 
-end Ring
+instance Int.instBinomialRing : BinomialRing ℤ where
+  nsmul_right_injective n hn r s hrs := Int.eq_of_mul_eq_mul_left (Int.ofNat_ne_zero.mpr hn) hrs
+  multichoose r k := by
+    cases r with
+    | ofNat n =>
+      use ((Nat.choose (n + k - 1) k):ℤ)
+    | negSucc n => use (-1)^k * Nat.choose n.succ k
```
Comment (jcommelin) [inline Mathlib/RingTheory/Binomial.lean:90]: In practice, it turns out that it is better to factor out such definitions-by-cases into standalone functions. They are complicated to work with, when defined as a field of an instance because of their non-trivial definitional equalities.

So I suggest creating a definition `Int.multichoose` above this instance, with the definition of this function. And then this field just refers to that definition.

File: Mathlib/RingTheory/Polynomial/Pochhammer.lean [hunk 2]
```diff
@@ -343,6 +343,18 @@ theorem descPochhammer_mul (n m : ℕ) :
   · rw [descPochhammer_succ_right, Polynomial.mul_X_sub_int_cast_comp, ← mul_assoc, ih,
       Nat.succ_eq_add_one, ← add_assoc, descPochhammer_succ_right, Nat.cast_add, sub_add_eq_sub_sub]
 
+theorem ascPochhammer_eval_neg_eq_descPochhammer (r : R) : ∀(k : ℕ),
```
Comment (jcommelin) [inline Mathlib/RingTheory/Polynomial/Pochhammer.lean:346]:
```suggestion
theorem ascPochhammer_eval_neg_eq_descPochhammer (r : R) : ∀ (k : ℕ),
```

Comment (ScottCarnahan) [reply Mathlib/RingTheory/Polynomial/Pochhammer.lean]: Done.

File: Mathlib/RingTheory/Binomial.lean (hunk 1 above)
Comment (ScottCarnahan) [reply Mathlib/RingTheory/Binomial.lean]: I see.  Thank you for that suggestion.

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
